US07612114B2
[3-Fluoro-4-(2-piperidin-1-ylethoxy)benzyl][2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine
To a solution of 3-fluoro-4-(2-piperidin-1-ylethoxy)benzoic acid hydrochloride (2.0 g) in thionyl chloride (20 ml) was added toluene (20 ml), the solution was stirred for 30 minutes at 100° C., then the reaction solution was concentrated in vacuo to provide 3-fluoro-4-(2-piperidin-1-ylethoxy)benzoyl chloride hydrochloride (2.0 g). To a solution of 2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenylamine (253 mg) in dichloromethane (8 ml) were sequentially added an aqueous solution of 1N sodium hydroxide (4 ml) and 3-fluoro-4-(2-piperidin-1-ylethoxy)benzoyl chloride hydrochloride (400 mg), and the solution was stirred overnight at room temperature. The solution was extracted with ethyl acetate, then sequentially washed with water and brine, dried over anhydrous magnesium sulfate, then the solvent was evaporated in vacuo. Synthesized from the resulting 3-fluoro-N-[2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]-4-(2-piperidin-1-ylethoxy)benzamide (423 mg) according to an analogous synthetic method to Example 337 described below, the title compound (418 mg) was obtained.

reactant | 2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenylamine | 253 mg | COC=1C=C2CCC(CC2=CC1)C1=C(C=CC=C1)N | C17H19NO
reactant | sodium hydroxide | 1N, 4 ml | [OH-].[Na+]
reactant | 3-fluoro-4-(2-piperidin-1-ylethoxy)benzoyl chloride hydrochloride | 400 mg | Cl.FC=1C=C(C(=O)Cl)C=CC1OCCN1CCCCC1
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
product | [3-Fluoro-4-(2-piperidin-1-ylethoxy)benzyl][2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine | 418 mg | FC=1C=C(CNC2=C(C=CC=C2)C2CC3=CC=C(C=C3CC2)OC)C=CC1OCCN1CCCCC1 | C31H37FN2O2
